US08865726B2
To a solution of (S)-2-(4-(5-(4-isopropyl-2-oxooxazolidin-3-yl)pyrazolo[1,5-a]pyrimidin-3-yl)benzoyl)hydrazinecarbothioamide (20.2 mg, 0.029 mmol) in dichloromethane (3 ml) was added PPh3 (22.7 mg, 0.087 mmol), triethylamine (32 μL, 0.231 mmol), and CCl4 (13.3 mg, 0.087 mmol). The reaction mixture was heated to 50° C. for 3 hours. After cooling to ambient temperature the reaction mixture was dissolved in EtOAc, washed with water then brine, dried over MgSO4, and concentrated under reduced pressure. The crude was purified by silica gel flash column chromatography (0-5% 7N NH3-MeOH in dichloromethane). The product was then subjected to preparative plate chromatography (10% MeOH in dichloromethane) to afford 0.9 mg (7%) of (S)-3-(3-(4-(5-amino-1,3,4-thiadiazol-2-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-isopropyloxazolidin-2-one. 1H NMR (400 MHz, CDCl3) δ 8.60 (d, 1H), 8.42 (s, 1H), 8.08 (m, 3H), 7.76 (d, 2H), 4.95 (m, 1H), 4.46 (m, 2H), 2.85 (m, 1H), 1.10 (d, 3H), 0.95 (d, 3H); LCMS (APCI+) m/z 422.5 [M+H]+.

reactant | (S)-2-(4-(5-(4-isopropyl-2-oxooxazolidin-3-yl)pyrazolo[1,5-a]pyrimidin-3-yl)benzoyl)hydrazinecarbothioamide | 0.029 mmol, 20.2 mg | C(C)(C)[C@@H]1N(C(OC1)=O)C1=NC=2N(C=C1)N=CC2C2=CC=C(C(=O)NNC(N)=S)C=C2 | C20H21N7O3S
reactant | PPh3 | 0.087 mmol, 22.7 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | triethylamine | 0.231 mmol, 32 μL | C(C)N(CC)CC | C6H15N
reactant | CCl4 | 0.087 mmol, 13.3 mg | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-3-(3-(4-(5-amino-1,3,4-thiadiazol-2-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-isopropyloxazolidin-2-one | 0.9 mg, 7% | NC1=NN=C(S1)C1=CC=C(C=C1)C=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C(C)C)=O | C20H19N7O2S
